datasets/10k_Mayr_OG.csv
SMILES Labelled
[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[N-:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1>>[N:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1 10=20
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[N+:12]1=[C:11]([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCC1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N:33](C)[C:22](=[CH:21][CH2:20][CH2:10][C+:11]1CCCCCCCCCC1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O:72] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COCC[NH:10]CCOC>>COCC[NH+:10](CCOC)[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)C=C1.C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1>>C1=CC=C([S:32]([C-:21]([CH:20]([CH:10]([C:11](=[O:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1.C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[NH:10]CC.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[NH+:10](CC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=CC(C)=C1[N+:61]#[C-:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC1=CC=CC(C)=C1[N+:61]#[C:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([CH2:10]C2=CC=CC=C2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([N+:10]2=[CH:61][CH:62]=[C:63](Cl)[CH:72]=[CH:71]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
